US07592477B2
Step a) Formation of N-[2-(2-fluorophenyl)ethyl]-N-[3-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 357 (step a) but using 3-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde and 2-(2-fluorophenyl)ethylamine gave the title compound as an oil.

reactant | 3-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCCCCC)C1=NOC(=N1)C=1C=C(C=O)C=CC1 | C20H28N2O2
reactant | 2-(2-fluorophenyl)ethylamine | FC1=C(C=CC=C1)CCN | C8H10FN
product | N-[2-(2-fluorophenyl)ethyl]-N-[3-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | FC1=C(C=CC=C1)CCNCC1=CC(=CC=C1)C1=NC(=NO1)CCCCCCCCCCC | C28H38FN3O
